US05047411
A solution of 3-methyl-2-[2-(4-aminophenyl)ethyl]pyridine (14.2 g) and acetic anhydride (13.65 g) in ethyl acetate (150 ml) was stirred at ambient temperature for 2 hours. The reaction mixture was washed with saturated sodium bicarbonate solution and brine successively and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was recrystallized from a mixture of diethyl ether and ethyl acetate to give 3-methyl-2-[2-(4-acetamidophenyl)ethyl]pyridine (16.3 g).

reactant | 3-methyl-2-[2-(4-aminophenyl)ethyl]pyridine | 14.2 g | CC=1C(=NC=CC1)CCC1=CC=C(C=C1)N | C14H16N2
reactant | acetic anhydride | 13.65 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 3-methyl-2-[2-(4-acetamidophenyl)ethyl]pyridine | 16.3 g | CC=1C(=NC=CC1)CCC1=CC=C(C=C1)NC(C)=O | C16H18N2O
